US06949542B2
8-(2-Fluoro-phenyl)-4-(3-pyrazin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {2′-fluoro-3-[3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester (Example M84) (0.34 g, 0.65 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (250 mg, 95%).

reactant | {2′-fluoro-3-[3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester | 0.65 mmol, 0.34 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(C1=CC(=CC=C1)C1=NC=CN=C1)=O)=O)=O | C30H27FN4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(2-Fluoro-phenyl)-4-(3-pyrazin-2-yl-phenyl)-1,3-dihydro-benzo[b][1,4]diazepin-2-one | FC1=C(C=CC=C1)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=CN=C2)=O)C1 | C25H17FN4O
